US07713982B2
c) 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
To a solution of 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione) (10.52 g, 54.7 mmol) in anhydrous DMF (60 ml) was added NCS (8.04 g, 60.2 mmol). The reaction mixture was left to stir under nitrogen at 20° C. for 6 hours. The reaction mixture was concentrated in vacuo to give an amber oil. MeOH was added and left to stand for 18 hours. The resulting residue was filtered and dried under vacuum to give the title compound (7.69 g, 62%). m/z 227.2[MH+].

reactant | 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | C(C=C)N1C=NC=2NC(NC(C12)=O)=O | C8H8N4O2
reactant | NCS | 60.2 mmol, 8.04 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | MeOH | CO | CH4O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 7.69 g, 62% | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
